US08119676B2
2-(6-Chloro-2-oxo-2,3-dihydrobenzimidazol-1-yl)-3-phenylpropionic acid (VIIIh)
950 mg (2.01 mmol) of tert-butyl 3-(1-tert-butoxycarbonyl-2-phenylethyl)-5-chloro-2-oxo-2,3-dihydrobenzimidazole-1-carboxylate (VIIh) were dissolved in dichloromethane (10 ml) and, while stirring at room temperature, trifluoroacetic acid (10 ml) was added. The reaction solution was stirred for 2 h and then the solvent and excess trifluoroacetic acid were removed in vacuo. The residue was taken up again in toluene, concentrated in vacuo and then dried in vacuo. Yield: 609 mg (96%) of white solid

reactant | tert-butyl 3-(1-tert-butoxycarbonyl-2-phenylethyl)-5-chloro-2-oxo-2,3-dihydrobenzimidazole-1-carboxylate | 2.01 mmol, 950 mg | C(C)(C)(C)OC(=O)C(CC1=CC=CC=C1)N1C(N(C2=C1C=C(C=C2)Cl)C(=O)OC(C)(C)C)=O | C25H29ClN2O5
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-(6-Chloro-2-oxo-2,3-dihydrobenzimidazol-1-yl)-3-phenylpropionic acid | ClC=1C=CC2=C(N(C(N2)=O)C(C(=O)O)CC2=CC=CC=C2)C1 | C16H13ClN2O3
